Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
sessile colon polyp 
 
Major Surgical or Invasive Procedure:
Partial laparoscopic transverse colectomy with takedown of 
splenic flexure.

 
History of Present Illness:
Mrs. ___ is a ___ who underwent a routine colonoscopy and was 
found to have  a sessile colon polyp that was not removable via 
colonoscopy. She was referred to Dr. ___ surgical 
consultation, and presents to ___ for planned removal of 
polyp.
 
Past Medical History:
Diabetes, hypertension
 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
At Discharge:
Vitals: T-99.8, HR-69, BP-130/92, RR-16, RA-97%
GEN: NAD, A/Ox3
CV: RRR, no m/r/g
RESP: CTAB
ABD: +BS, soft, ND, appropriately TTP
Incision: 3 abdominal Lap incision, incison inferior to 
epigastrum OTA w/ dermabond, CDI. Superior to umbilicius opened 
w/ scant purulent & serous drainage-packed with moistened 
nu-gauze. Suprapubic incision open w/ dried blood, DSD applied 
on top.
Extrem: no c/c/e
 
Pertinent Results:
___ 04:26PM   HCT-36.4
___ 05:40AM BLOOD WBC-6.6 RBC-2.95* Hgb-8.8* Hct-26.3* 
MCV-89 MCH-29.9 MCHC-33.5 RDW-12.5 Plt ___
___ 05:25AM BLOOD WBC-7.8 RBC-3.19* Hgb-9.2* Hct-28.1* 
MCV-88 MCH-28.7 MCHC-32.6 RDW-12.4 Plt ___
___ 04:01AM BLOOD Neuts-77* Bands-3 Lymphs-11* Monos-9 
Eos-0 Baso-0 ___ Myelos-0
___ 05:40AM BLOOD Glucose-94 UreaN-8 Creat-0.6 Na-142 K-3.6 
Cl-106 HCO3-27 AnGap-13
___ 05:25AM BLOOD Glucose-93 UreaN-7 Creat-0.7 Na-141 K-3.7 
Cl-105 HCO3-27 AnGap-13
___ 04:01AM BLOOD CK(CPK)-80
___ 06:15PM BLOOD CK(CPK)-102
___ 11:31AM BLOOD CK(CPK)-93
___ 04:01AM BLOOD CK-MB-2 cTropnT-<0.01
___ 06:15PM BLOOD CK-MB-2 cTropnT-<0.01
___ 11:31AM BLOOD CK-MB-2 cTropnT-<0.01
___ 05:40AM BLOOD Calcium-8.5 Phos-4.6* Mg-1.9
___ 05:25AM BLOOD Calcium-8.7 Phos-4.7*# Mg-1.9
___ 06:15AM BLOOD CEA-1.5
.
Pathology
Procedure date    ___  
DIAGNOSIS: 
Transverse colon, resection:
Adenocarcinoma of the colon, well-differentiated, arising in a 
large adenoma (2.7 cm), see synoptic report.

 
Brief Hospital Course:
___: Pt admitted to the surgical floor after laprocropic 
partial colectomy for a colonic polyp in the tranzerse colon. Pt 
was kept NPO on IVF. Pain managed with a morphine PCA, & ___ 
pump. JP drain intact w/ serosanguinous output. Foley in place 
with adequate urine output.
.
___: Diet advanced from sips to clears. Reported 
intermittent nausea. Managed with IV Zofran. Lisinopril started 
due to elevated BP. Blood sugars managed with RISS. 
.
___: Emesis-500cc. Managed with IV Zofran. Continued with 
Nausea and abdominal distention. NGT inserted for decompression. 
Clear white mucous drained. Patient reported feeling better. 
Distal umbilical area with unchanged erythema & warmth. 
Maintained NPO with IV fluid hydration. All medications given 
IV. Urinating adequate amounts. 
.
___: NGT clamped, decreased output. NGT removed. Abdomen less 
distened. Patient feeling better. No N/V. Started on sips in AM, 
and advanced to clear liquids in afternoon. Tolerated well. 
Medications switched to oral. ABD incision opened at bedside per 
Dr. ___. Cultures sent.  WBC-7.8. Continued with IV Vanco & 
Zosyn. Urinating adequate amounts. Reported flatus and loose BM.
.
___: Abdominal incision remains unchanged.
.
___: Tolerating regular diet. Wound cx + for Morganella and Vanc 
sensitive Enterococcus. Antibiotics switched to IV Zosyn. WBC 
stable, remains afebrile. Abdominal wound continues to feel warm 
to touch but with decreaesed erythema. Underwent ABD U/S 
revealing soft tissue inflammation, but NO fluid collection. 
Continue to watch WBC, wound healing, and overall response to IV 
Zosyn.
.
___ consulted.  Recs to transition pt to continue zosyn until 
discharged then  Change antibiotics to Ciprofloxacin and 
Amoxicillin 500 mg po three tmes daily for ___ days of 
antibiotic therapy but can be decided with close surgical and ID 
followup and reevaluation of wound.  

___: pt changed to Po ciprofloxacin and Amoxicillin. Pt 
discharged home with ___ for BID dressing changes.

 
Medications on Admission:
lisinopril 40', glyburide 5', metformin ___
 
Discharge Medications:
1. Hydrocodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q4-6H () as needed for pain for 2 weeks: Take with FOOD. Do not 
exceed 4000mg of Tylenol in 24hrs.
Disp:*30 Tablet(s)* Refills:*0*
2. Colace 100 mg Capsule Sig: One (1) Capsule PO twice a day as 
needed for constipation for 1 months: Take with Vicodin.
Disp:*60 Capsule(s)* Refills:*0*
3. Lisinopril 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
4. Ferrous Sulfate 325 mg (65 mg Iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
5. Amoxicillin 500 mg Capsule Sig: One (1) Capsule PO three 
times a day for 14 days.
Disp:*42 Capsule(s)* Refills:*0*
6. Cipro 500 mg Tablet Sig: One (1) Tablet PO twice a day for 14 
days.
Disp:*28 Tablet(s)* Refills:*0*
7. Metformin 1,000 mg Tablet Sig: Two (2) Tablet PO twice a day. 
 
8. Glyburide 5 mg Tablet Sig: One (1) Tablet PO once a day.  
9. Multivitamin     Capsule Sig: One (1) Capsule PO once a day.  

10. Vitamin E 1,000 unit Capsule Sig: One (1) Capsule PO once a 
day.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:
sessile colon polyp
Post-op wound infection
Post-op fever work-up
Post-op tachycardia-EKG with flattened T-waves. Cardiac work-up 
negative.
Post-op ileus
.
Secondary:
Diabetes Mellitus type 2, Hypertension

 
Discharge Condition:
Stable
Tolerating a regular,diabetic diet
Adequate pain control with oral medication

 
Discharge Instructions:
Please call your doctor or return to the ER for any of the 
following:
* You experience new chest pain, pressure, squeezing or 
tightness.
* New or worsening cough or wheezing.
* If you are vomiting and cannot keep in fluids or your 
medications.
* You are getting dehydrated due to continued vomiting, 
diarrhea or other reasons. Signs of dehydration include dry 
mouth, rapid heartbeat or feeling dizzy or faint when standing.
* You see blood or dark/black material when you vomit or have a 
bowel movement.
* Your pain is not improving within ___ hours or not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or is changing location or moving to your chest or 

back.
*Avoid lifting objects > 5lbs until your follow-up appointment 
with the surgeon.
*Avoid driving or operating heavy machinery while taking pain 
medications.
* You have shaking chills, or a fever greater than 101.5 (F) 
degrees or 38(C) degrees.
* Any serious change in your symptoms, or any new symptoms that 
concern you. 
* Please resume all regular home medications and take any new 
meds 
as ordered. 
* Continue to ambulate several times per day.
.
Incision Care:
-Visiting nurses ___ assist & teach you regarding dressing 
changes. To be done twice a day.
-You may shower, and wash surgical incisions.
-Avoid swimming and baths until your follow-up appointment.
-Please call the doctor if you have increased pain, swelling, 
redness, or drainage from the incision sites.

 
Followup Instructions:
___